### PR TITLE
feat(GreensOpenProblems): 47

### LINKED ISSUE #1603: Green's Open Problems #47
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.47

Suppose that a large sieve process leaves a set of quadratic size. Is that set quadratic?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Aditi0522**
This pr addresses the issue #1603 "The inverse sieve problem"

Closes #1603

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+namespace Green47
+
+@[category research open, AMS 11]
+theorem green_47 (A : Finset ℕ) :
+    (∀ p : ℕ, 0 < p → (A.image (λ a => a % p)).card ≤ p + 1/2) →
+    ∃ C : ℝ, ∀ X : ℕ, (A.filter (λ a => a ≤ X)).card ≤ C * (X : ℝ)^(1/2) := by
+  sorry
+
+
+end Green47
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]:
```suggestion
end Green47
```

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Ben Green's Open Problem 47
+
+Inverse large sieve problem.
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]:
```suggestion
# Ben Green's Open Problem 47: Inverse large sieve problem
```

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+
+Suppose that $A \subseteq \mathbf{N}$ satisfies $|A \pmod{p}| \le \frac{p + 1}{2}$ for all
+sufficiently large primes $p$. Then either:
+
+1. `A` is very small in a sense that $|A \cap [1, X]| \ll \frac{X^{1/2}}{(\log X)^{100}}$
+
+2. `A` is contained in the image of `ℤ` under some quadratic map `φ : ℚ → ℚ`.
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]: Can you move this to the lemma docstring?

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 5]
```diff
@@ -0,0 +1,54 @@
...
+- B. J. Green and A. Harper, "Inverse questions for the large sieve", Geom. Funct. Anal. Vol.
+  24 (2014) 1167–1203
+- H. A. Helfgott and A. Venkatesh, "How small must ill-distributed sets be?" Analytic number
+  theory, 224–234, Cambridge Univ. Press, Cambridge, 2009.
+- M. N. Walsh, "The inverse sieve problem in high dimensions". Duke Math. J. 161 (2012), no.
+  10, 2001–2022.
+- M. N. Walsh, "The algebraicity of ill-distributed sets". Geom. Funct. Anal. 24 (2014), no. 3,
+  959–967.
+
+-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean:34]:
```suggestion
-/

open Finset
```

File: FormalConjectures/GreensOpenProblems/47.lean [hunk 6]
```diff
@@ -0,0 +1,54 @@
...
+
+namespace Green47
+
+@[category research open, AMS 11]
+theorem green_47 (A : Finset ℕ) :
+    (∀ p : ℕ, 0 < p → (A.image (λ a => a % p)).card ≤ p + 1/2) →
+    ∃ C : ℝ, ∀ X : ℕ, (A.filter (λ a => a ≤ X)).card ≤ C * (X : ℝ)^(1/2) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]:
```suggestion
    (∀ p : ℕ, 0 < p → (A.image (λ a => a % p)).card ≤ p + 1/2) →
    ∃ C : ℝ, ∀ X : ℕ, #{a \in A | a ≤ X} ≤ C * (X : ℝ)^(1/2 : ℝ) := by
```

Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/47.lean]: This is missing the image of a quadratic map possibility. Is this all generated by an LLM without you reviewing it?

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: No actually I was following the line given below to state the theorem, I forgot to add the latter part, Let me make the changes and commit them properly.

Suppose that A ⊂ N is a set with the property that
|A(mod p)| ⩽ 1/2 (p + 1) for all sufficiently large p. The large sieve then implies that
|A ∩ [X]| ≪ X^1/2, and this is clearly sharp because one could take A to be the
set of squares or the image of Z under some other quadratic map ϕ : Q → Q.

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: I think I have made a crucial error in statement formalization itself.

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: "However, is it true that either |A ∩ [X]| ≪ (X^1/2)/log100 X, or A is contained in the image
of Z under a quadratic map ϕ : Q → Q?"

It seems I have followed this in the formalization, when it is an open question.

Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/47.lean]: Can you actually use `#`, ie `Finset.card`?

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: Okay let me make those changes

Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/47.lean]: Yes indeed, you don't have the "or"

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: Yes I have made the corrections to correctly reflect the conjecture. Kindly look them over.

Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/47.lean]: I don't any "or" in the code. You seem to be using an LLM without checking its output. This behavior is repeatedly wasting my time. Consider this your last warning before we ban you from contributing to this repo.

Comment (Aditi0522) [reply FormalConjectures/GreensOpenProblems/47.lean]: I actually made the edits inside the content in the docstring and I have been consistently checking my code but it seems my understanding of conjecture was lacking. I will be sure to keep your words in mind, let me add the or part in this block.
